US07709479B1
A mixture of 2-methoxy-4-nitroaniline (2.23 g, 13.3 mmol), triethylamine (2.00 ml, 14.6 mmol) and benzoyl chloride (1.70 ml, 14.6 mmol) were stirred in toluene (50 ml) for 24 hours under an inert atmosphere at ambient temperature. The solid was collected by suction filtration and washed with toluene (3×50 ml) and diethyl ether (50 ml). Purification of the crude product by flash chromatography on silica gel, eluting with dichloromethane, yielded N-benzoyl 2-methoxy-4-nitroaniline (2.79 g, 77% yield) as a white solid:

reactant | 2-methoxy-4-nitroaniline | 13.3 mmol, 2.23 g | COC1=C(N)C=CC(=C1)[N+](=O)[O-] | C7H8N2O3
reactant | triethylamine | 14.6 mmol, 2.00 ml | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 14.6 mmol, 1.70 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | N-benzoyl 2-methoxy-4-nitroaniline | 2.79 g, 77% yield | C(C1=CC=CC=C1)(=O)NC1=C(C=C(C=C1)[N+](=O)[O-])OC | C14H12N2O4
